US07855290B2
N-(3-Fluoro-4-{[2-({[methyl(1-methylpiperidin-4-yl)amino]carbonyl} amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1.1-dicarboxamide
3-[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea (40.8 mg) was dissolved in N,N-dimethylformamide (1.0 ml). 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid (73 mg), triethylamine (0.0456 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (145 mg) were added under a nitrogen atmosphere at room temperature and stirred for 3.5 hr. Liquid-liquid separation was carried out after addition of ethyl acetate and water to the reaction mixture. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine, and dried over anhydrous sodium sulfate. The solvent was removed and the resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=97:3) to provide the titled compound as white powder (26.3 mg, 42%).

reactant | 3-[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 40.8 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=C1)F | C19H24FN5O2
reactant | 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 73 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | triethylamine | 0.0456 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 145 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-(3-Fluoro-4-{[2-({[methyl(1-methylpiperidin-4-yl)amino]carbonyl} amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1.1-dicarboxamide | 26.3 mg, 42% | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC(=O)N(C1CCN(CC1)C)C)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C30H32F2N6O4
